US07919506B2
Step C: Preparation of (S)-[2-(tert-butyl-dimethyl-silanyloxymethyl)-4-trifluoromethyl-phenyl]-cyclohexyl-methanol
A mixture of [IrHCl2(COD)]2 (33 mg, 0.044 mmol) and (1R,2R)—N,N′-bis[2-(diphenylphosphino)benzyl]cyclohexane-1,2-diamine (29 mg, 0.044 mmol) in isopropanol (37 ml) was stirred at room temperature for 30 minutes. A solution of [2-(tert-butyl-dimethyl-silanyloxymethyl)-4-trifluoromethyl-phenyl]-cyclohexyl-methanone (1.6 g, 4 mmol) in isopropanol (5 ml) was added to mixture followed by potassium hydroxide (28 mg, 0.5 mmol) and stirred for 16 hours. Isopropanol was removed in vacuo and the residue was purified by chromatography over 25+M Biotage silica column eluted with ethyl acetate in heptanes 0% (1 CV), 2-20% (10CV), 20% (2CV) to yield the title compound (1.4 g, 87%) as colorless oil. 1H NMR (400 MHz, CDCl3) δ ppm 0.09 (s, 6H) 0.9 (s, 9H) 1.2 (m, 3H) 1.6 (d, J=7.4 Hz, 1H) 1.7 (m, 4H) 2.0 (m, 1H) 2.2 (m, 1H) 2.4 (m, 1H) 4.5 (m, 1H) 4.7 (d, J=13.7 Hz, 1H) 4.8 (d, J=13.7 Hz, 1H) 7.5 (d, J=1.2 Hz, 2H) 7.6 (s, 1H). Chiral SFC, Retention timet=1.93 min. indicates product is 95.0% ee. [α]D20=−12.99 deg (c=9.5 mg/mL, acetone)

reactant | [2-(tert-butyl-dimethyl-silanyloxymethyl)-4-trifluoromethyl-phenyl]-cyclohexyl-methanone | 4 mmol, 1.6 g | C(C)(C)(C)[SiH2]OC(C1=C(C=CC(=C1)C(F)(F)F)C(=O)C1CCCCC1)(C)C | C21H31F3O2Si
reactant | potassium hydroxide | 0.5 mmol, 28 mg | [OH-].[K+]
solvent | isopropanol | 37 ml | C(C)(C)O | C3H8O
solvent | isopropanol | 5 ml | C(C)(C)O | C3H8O
catalyst | (1R,2R)—N,N′-bis[2-(diphenylphosphino)benzyl]cyclohexane-1,2-diamine | 0.044 mmol, 29 mg | C1(=CC=CC=C1)P(C1=C(CN[C@H]2[C@@H](CCCC2)NCC2=C(C=CC=C2)P(C2=CC=CC=C2)C2=CC=CC=C2)C=CC=C1)C1=CC=CC=C1 | C44H44N2P2
product | (S)-[2-(tert-butyl-dimethyl-silanyloxymethyl)-4-trifluoromethyl-phenyl]-cyclohexyl-methanol | 1.4 g, 87% | C(C)(C)(C)[SiH2]OC(C1=C(C=CC(=C1)C(F)(F)F)[C@@H](O)C1CCCCC1)(C)C | C21H33F3O2Si
